Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
right upper extremity pain
 
Major Surgical or Invasive Procedure:
RIGHT C5-C7 ANTERIOR CERVICAL DISCECTOMY AND FUSION WITH 
ALLOGRAFT on ___ with Dr. ___

 
___ of Present Illness:
___ is a pleasant gentleman who is suffering from 
longstanding signs and symptoms of right upper extremity 
radiculopathy caused by along C6 and C7
segments caused by cervical spinal stenosis. His MRI shows C5-6 
right-sided foraminal stenosis moderate to severe in nature and 
C6-7 left-sided disc herniation with spinal cord and nerve root 
impingement. He had failed prolonged conservative treatment. Due 
to this, the decision for surgical treatment was taken.  
 
Past Medical History:
Past medical history is negative for any issues
Past surgical history: Appendectomy and removal of sesamoid bone
in the right foot
 
Social History:
___
Family History:
Family history is positive for cancer diabetes heart disease and 
kidney disease
 
Physical Exam:
NAD, A&Ox4
nl resp effort
RRR
Incision c/d/I. HVAC with scant output, removed
  
Sensory:
UE 
       C5         C6           C7        C8           T1
     (lat arm)  (thumb)     (mid fing) (sm finger)  (med arm)
R     SILT       SILT        SILT        SILT         SILT
L     SILT       SILT        SILT        SILT         SILT

Motor:
UE   Dlt(C5) Bic(C6) WE(C6) Tri(C7) WF(C7) FF(C8)FinAbd(T1)
R      5       5       5      5       5      5     5
L      5       5       5      5       5      5     5

              
___: Negative

Labs:
___: WBC: 11.1*
___: HGB: 13.4*
___: HCT: 38.9*
___: Plt Count: 192
___: Na: 139 (New reference range as of ___: K: 3.9 (New reference range as of ___: Cl: 100
___: CO2: 28
___: Glucose: 96 (If fasting, 70-100 normal, >125
provisional diabetes)
___: BUN: 11
___: Creat: 1.0

 
Pertinent Results:
___ 04:31AM BLOOD WBC-11.1* RBC-3.80* Hgb-13.4* Hct-38.9* 
MCV-102* MCH-35.3* MCHC-34.4 RDW-12.9 RDWSD-48.5* Plt ___
___ 04:31AM BLOOD Plt ___
___ 04:31AM BLOOD Glucose-96 UreaN-11 Creat-1.0 Na-139 
K-3.9 Cl-100 HCO3-28 AnGap-11
___ 04:31AM BLOOD Calcium-8.9 Phos-4.5 Mg-1.7
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#1. Mr. ___ was ambulating 
independently. On the day of discharge the patient was afebrile 
with stable vital signs, comfortable on oral pain control and 
tolerating a regular diet.
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
may take over the counter  
2.  Diazepam 5 mg PO BID:PRN muscle spasm 
may cause drowsiness 
RX *diazepam 5 mg 1 tablet by mouth twice a day Disp #*28 Tablet 
Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
please take while taking narcotic pain medication 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
please do not operate heavy machinery, drink alcohol or drive 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Cervical spondylotic radiculopathy.
2.  Cervical degenerative disc disease C5-C7.
3.  Superior cervical spinal stenosis, C5 through C7.
4.  Right upper extremity radiculopathy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
ACDF:

You have undergone the following operation:Anterior Cervical 
Decompression and Fusion.

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit in a car or chair for more than~45 minutes without 
getting up and walking around. 

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.  

•                Swallowing:Difficulty swallowing is not 
uncommon after this type of surgery.This should resolve over 
time.Please take small bites and eat slowly.Removing the collar 
while eating can be helpful–however,please limit your movement 
of your neck if you remove your collar while eating.

•                Cervical Collar / Neck Brace:If you have been 
given a soft collar for comfort, you may remove the collar to 
take a shower or eat.Limit your motion of your neck while the 
collar is off.You should wear the collar when walking,especially 
in public.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery,do not get the incision wet.Call the office at that 
time. f you have an incision on your hip please follow the same 
instructions in terms of wound care.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so plan ahead.You can either have them 
mailed to your home or pick them up at the clinic located on 
___.We are not allowed to call in narcotic 
(oxycontin,oxycodone,percocet) prescriptions to the pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.

               At the 2-week visit we will check your 
incision,take baseline x rays and answer any questions.

               We will then see you at 6 weeks from the day of 
the operation.At that time we will most likely obtain 
Flexion/Extension X-rays and often able to place you in a soft 
collar which you will wean out of over 1 week.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit, drainage from your wound,or have any questions.
 
Followup Instructions:
___